US03948996
Sodium ethoxide (prepared from 0.2 g. of sodium and 12 ml. of ethanol) is slowly added to a mixture of 1.1 g. of 7-methylthio-3,7-dimethyloctan-1-al, diethyl 3-ethoxycarbonyl-2-methyl-prop-2-enyl-phosphonate (1.6 g.) and 50 ml. of dimethylformamide, with stirring, under nitrogen, at 0°. The reaction is stirred for 1.5 hours after addition is complete and then worked up by extraction with ether to yield ethyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | Sodium ethoxide | 12 ml, 0.2 g | [O-]CC.[Na+]
reactant | 7-methylthio-3,7-dimethyloctan-1-al | CSC(CCCC(CC=O)C)(C)C | C11H22OS
reactant | diethyl 3-ethoxycarbonyl-2-methyl-prop-2-enyl-phosphonate | 1.6 g | C(C)OC(=O)C=C(CP(OCC)(OCC)=O)C | C11H21O5P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate | CSC(CCCC(CC=CC(=CC(=O)OCC)C)C)(C)C | C18H32O2S
